US08791142B2
Intermediate A6: 2-(methoxymethyl)-2′-methylbiphenyl-4-carbonyl chloride
Oxalyl chloride (2.0 mL, 23.6 mmol) and anhydrous DMF (0.060 mL, 0.78 mmol) were added into a solution of 2-(methoxymethyl)-2′-methylbiphenyl-4-carboxylic acid (2.0 g, 7.8 mmol) in anhydrous DCM (40 mL). After 15 hours at RT, the reaction mixture was concentrated under reduced pressure to give the title compound as a yellow oil (2.1 g, quantitative), which was used without further purification.

reactant | Oxalyl chloride | 23.6 mmol, 2.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.78 mmol, 0.060 mL | CN(C)C=O | C3H7NO
reactant | 2-(methoxymethyl)-2′-methylbiphenyl-4-carboxylic acid | 7.8 mmol, 2.0 g | COCC1=C(C=CC(=C1)C(=O)O)C1=C(C=CC=C1)C | C16H16O3
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 2-(methoxymethyl)-2′-methylbiphenyl-4-carbonyl chloride | 2.1 g | COCC1=C(C=CC(=C1)C(=O)Cl)C1=C(C=CC=C1)C | C16H15ClO2
